US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine, ethylene glycol dimethyl ether and tetrakis(triphenylphosphine) palladium and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.21, 1.29, 1.94, 2.51, 2.67, 2.80, 2.92, 3.01, 3.81, 4.69, 5.80, 6.86, 6.95, 7.22, 7.29-7.36, 7.51; HRMS (FAB) calcd for C24H25Cl2N3O+H 442.1453, found 442.1443.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCC2=CC=C(C=C12)OC)CC | C18H22BrN3O
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-(6-methoxy-2,3-dihydro-1H-inden-1-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1CCC2=CC=C(C=C12)OC)CC | C24H25Cl2N3O
